US09382241B2
N-[3-(4-aminoquinazolin-6-yl)-5-fluoro-phenyl]acetamide
To a 4 mL screw-cap vial was added 6-(3-amino-5-fluoro-phenyl)quinazolin-4-amine, 25 mg; 0.10 mmol) followed by DCM (0.5 mL), TEA (2 equiv., 0.20 mmol, 0.0277 mL), and acetyl chloride (2 equiv., 0.20 mmol, 15.43 mg). The reaction was capped and shaken at room temperature for 2 h. Reaction was then diluted with 2 mL dichloromethane, and washed with water. Resultant precipitate was collected by filtration, then purified by reverse phase HPLC. Purification recovered 6 mg of desired product. 1H NMR (400 MHz, DMSO) δ 10.35-10.24 (s, 1H), 8.61-8.49 (d, J=1.7 Hz, 1H), 8.43-8.36 (s, 1H), 8.05-7.97 (dd, J=8.7, 1.8 Hz, 1H), 7.98-7.82 (bs, 1H), 7.77-7.73 (d, J=8.7 Hz, 1H), 7.71-7.67 (s, 1H), 7.65-7.56 (d, J=11.2 Hz, 1H), 7.42-7.30 (d, J=10.0 Hz, 1H), 2.11-2.08 (s, 3H). LCMS M/Z (M+H) 297.

reactant | 6-(3-amino-5-fluoro-phenyl)quinazolin-4-amine | NC=1C=C(C=C(C1)F)C=1C=C2C(=NC=NC2=CC1)N | C14H11FN4
reactant | acetyl chloride | 0.20 mmol, 15.43 mg, 2 equiv. | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(4-aminoquinazolin-6-yl)-5-fluoro-phenyl]acetamide | NC1=NC=NC2=CC=C(C=C12)C=1C=C(C=C(C1)F)NC(C)=O | C16H13FN4O
